US05183820
Phenylmethyl 4-[(6-fluoro-2,3,4,5-tetrahydro-5-methyl-1-oxo-1H-pyrido [4,3-b]indol-2-yl)methyl]-5-methyl-1H-imidazole-1-carboxylate
A solution of benzyl chloroformate (0.47 ml) in dichloromethane (1 ml) was added to a stirred solution of 6-fluoro-2,3,4,5-tetrahydro-5-methyl-2-[(5-methyl -1H-imidazol-4-yl)methyl]-1H-pyrido[4,3-b]indol-1-one (496 mg) and triethylamine (0.67 ml) in dry dichloromethane (50 ml) at 20° under nitrogen, and the mixture was stirred overnight. The cooled reaction mixture was then added to 2N sodium hydroxide (100 ml) and extracted with dichloromethane (2×100 ml). The combined, dried organic extracts were adsorbed onto silica and purified by FCC eluting with System A (200:8:1) to give the title compound (442 mg) as a solid. A sample was recrystallised from hot ethyl acetate, and the resultant solid was triturated with ether to give a crystalline solid, m.p. 126°-128°.

reactant | benzyl chloroformate | 0.47 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | 6-fluoro-2,3,4,5-tetrahydro-5-methyl-2-[(5-methyl -1H-imidazol-4-yl)methyl]-1H-pyrido[4,3-b]indol-1-one | 496 mg | FC1=CC=CC=2C3=C(N(C12)C)CCN(C3=O)CC=3N=CNC3C | C17H17FN4O
reactant | triethylamine | 0.67 ml | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | 2N, 100 ml | [OH-].[Na+]
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | Phenylmethyl 4-[(6-fluoro-2,3,4,5-tetrahydro-5-methyl-1-oxo-1H-pyrido [4,3-b]indol-2-yl)methyl]-5-methyl-1H-imidazole-1-carboxylate | 442 mg | FC1=CC=CC=2C3=C(N(C12)C)CCN(C3=O)CC=3N=CN(C3C)C(=O)OCC3=CC=CC=C3 | C25H23FN4O3
